* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1359.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 3.4K
V3 IN 0 AC 1
C1 N002 N004 100p
R3 N004 N001 5.62K
C2 N001 0 330p
C3 OUT N005 47p
R5 N005 N003 5.11K
R6 N003 N002 2.61K
C4 N003 0 1000p
R4 N001 IN 3.4K
R2 OUT N003 2.61K
X§U1 0 N004 +V -V N002 LT1357
X§U2 0 N005 +V -V OUT LT1357
.ac oct 10 1K 1Meg
* 200KHz, 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
